US05256675
To a mixture of 2-formylamino-4-(4-nitrophenylthiomethyl)thiazole (2.2 g) and ammonium chloride (0.5 g) in a mixture of tetrahydrofuran (30 ml), ethanol (50 ml) and water (10 ml) was added portionwise the iron powder at 80° C. with stirring. The mixture was refluxed for 2 hours with stirring. The reaction mixture was filtered by suction and the residue was triturated with water. The precipitates were collected by filtration, washed with water and dried in vacuo to give 2-formylamino-4-(4-aminophenylthiomethyl)thiazole (1.6 g, yield: 81%). mp: 180°-182° C.

reactant | 2-formylamino-4-(4-nitrophenylthiomethyl)thiazole | 2.2 g | C(=O)NC=1SC=C(N1)CSC1=CC=C(C=C1)[N+](=O)[O-] | C11H9N3O3S2
reactant | ammonium chloride | 0.5 g | [Cl-].[NH4+]
reactant | ethanol | 50 ml | C(C)O | C2H6O
reactant | water | 10 ml | O | H2O
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
catalyst | iron | [Fe] | Fe
product | 2-formylamino-4-(4-aminophenylthiomethyl)thiazole | 1.6 g, yield: 81% | C(=O)NC=1SC=C(N1)CSC1=CC=C(C=C1)N | C11H11N3OS2
